US06417212B1
C. 2-(5-Hydroxy-biphenyl-2-yloxy)-2-methyl-propionic acid
A solution of 2-(5-benzyloxy-biphenyl-2-yloxy)-2-methyl-propionic acid ethyl ester (3.58 g, 7.63 mmol maximum) in ethanol (75 mL) was treated with 5% Pd/C (3.0 g) and hydrogen (balloon, room temperature, 16 h). The mixture was filtered and concentrated to a viscous colorless oil (2.44 g, 107%): 1H NMR (400 MHz, CDCl3) δ1.25 (t, 3H, J=7.1 Hz), 1.27 (s, 6H), 4.20 (q, 2H, J=7.3 Hz), 4.95 (brs, 1H), 6.67 (dd, 1H, J=3.4, 8.8 Hz), 6.81 (d, 1H, J=3.4 Hz), 6.88(d, 1H, J=8.8 Hz), 7.30(dt, 1H, J=1.5, 7.3 Hz), 7.37 (dt, 2H, J=1.5, 7.3 Hz), 7.52 (dd, 2H, J=1.5, 6.8 Hz).

reactant | 2-(5-benzyloxy-biphenyl-2-yloxy)-2-methyl-propionic acid ethyl ester | 7.63 mmol, 3.58 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C25H26O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | 2-(5-Hydroxy-biphenyl-2-yloxy)-2-methyl-propionic acid | OC=1C=CC(=C(C1)C1=CC=CC=C1)OC(C(=O)O)(C)C | C16H16O4
